US06066657
4-Bromo-7-methoxybenzofuran-2-sulfonic Acid Dimethylamide
Prepared from 7-methoxybenzofuran-2-sulfonic acid dimethylamide (0.82 g) and N-bromosuccinimide (0.57 g) in acetonitrile (50 ml). Purification by column chromatography eluting with 50% ethyl acetate in hexane afforded the desired product as a pale yellow solid (1.0 g).

reactant | 7-methoxybenzofuran-2-sulfonic acid dimethylamide | 0.82 g | CN(S(=O)(=O)C=1OC2=C(C1)C=CC=C2OC)C | C11H13NO4S
reactant | N-bromosuccinimide | 0.57 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | 4-Bromo-7-methoxybenzofuran-2-sulfonic Acid Dimethylamide | 1.0 g | CN(S(=O)(=O)C=1OC2=C(C1)C(=CC=C2OC)Br)C | C11H12BrNO4S
